US04885363
(C) 4-Benzyl-1,7-bis(p-toluenesulfonyl)-1,4,7triazaheptane
To a solution of 141.2 g (0.741 mol) of p-toluenesulfonyl chloride in 250 ml of dichloromethane with 110 ml (0.8 mol) of triethylamine was added dropwise 68.0 g (0.352 mol) of 4-benzyl-1,4,7-triazaheptane in 75 ml of dichloromethane. After 2 hours, the solution was washed three times with water at pH 9, and the organic phase was dried with sodium sulfate and filtered. Evaporation gave an oil which was dissolved in about 450 ml of ethyl acetate. The solution was diluted with 200 ml of ether and left to stand at room temperature for 24 hours. The mixture was further diluted with about 50 ml of ether and refrigerated for another day. The product crystallized in massive prisms which were collected by filtration and dried under vacuum at 40° C. for 6 hours, yielding in the first crop 140 g (0.279 mol) of a colorless solid; melting point 87°-91° C. Mass spectrum (CI): m/e 502 (M+H) and 500 (M-H).

reactant | p-toluenesulfonyl chloride | 0.741 mol, 141.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.8 mol, 110 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzyl-1,4,7-triazaheptane | 0.352 mol, 68.0 g | C(C1=CC=CC=C1)N(CCN)CCN | C11H19N3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | about 450 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | about 50 ml | CCOCC | C4H10O
product | 4-Benzyl-1,7-bis(p-toluenesulfonyl)-1,4,7triazaheptane | 0.279 mol, 140 g | C(C1=CC=CC=C1)N(CCNS(=O)(=O)C1=CC=C(C=C1)C)CCNS(=O)(=O)C1=CC=C(C=C1)C | C25H31N3O4S2
